Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.41048551183
[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-3.91173998765
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.96743130948
[H:6].[O:1]=[C:2]([H:3])/[C:4]([C:5])=[C:7](\[H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])/[C:4]([C:5][H:6])=[C:7](\[H:8])[O:9][H:10],-3.99102006443
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.88840452533
[H:1][C:2]([C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.91513337543
[O:1].[O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-0.7911602715
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.30651306698
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-0.888598209681
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11],4.456923916469999
[C:3]([H:4])=[C:9]([C:6]([C:5])([H:7])[H:8])[H:10].[H:1][C:2]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.7001357219600002
[H:1][C:2]([H:3])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.6800297673700002
[C:4]#[C:8][H:9].[H:1][C:2]([C:3]#[C:5][O:6][H:7])([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.43314782919
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.15423829814
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:4],3.06423163741
[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.5092701802600015
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:9],1.82128719832
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3],2.36958448654
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.7974020048
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:11],1.17285370017
[H:10].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]#[C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],-1.90362145147
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.40580212702
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],5.11758568561
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14],-4.8500863221
[C:4]#[C:5][H:6].[H:1][C:2]([C:3][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])([H:7])[H:8]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.69254560619
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],0.947973477529
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.8607771598400005
